Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right face/arm numbness and paresthesia,
and right hand weakness
 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ man with a history of
hypertension, stage 4 CKD, and stroke without residual (___)
who presented to OSH with right face and arm numbness and
paresthesia, and right hand weakness since 9:30AM this morning. 

He had been doing yard work, then went inside his home and
noticed right facial numbness and paresthesia which quickly
spread to include his right arm up to the shoulder. He also
noticed mild weakness in his grip on the right. He looked in a
mirror and did not notice any facial asymmetry. He spoke with 
his
girlfriend and specifically asked her if his speech was slurred,
which it was not. He did not have any difficulty comprehending
speech or with word-finding. There was no incoordination, and he
was easily able to walk. He denies headache. 

He presented to ___ by 10:30AM and by that time 
his
symptoms were quickly improving, with only mild residual right
hand weakness. CT was performed an unremarkable. ___ 
telestroke
was consulted and tPA was not recommended. He was subsequently
transferred to ___ for stroke work-up. 

He reports a history of stroke ___ years ago where he reports
loss of consciousness, but does not believe he had any residual
symptoms upon leaving the hospital. His stage 4 CKD was
discovered around that time and a fistula was placed in his left
arm anticipating the need for dialysis in the near term, however
his kidney function has remained stable since and he has not
initiated dialysis. He has a history of stage 1 colon cancer s/p
partial colectomy ___ years ago with negative surveillance 
since.

ROS: Positive as per HPI. On neurological review of systems, the
patient denies headache, confusion, difficulties producing or
comprehending speech, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
Past Medical History:
Stage 4 CKD ___, stable) secondary to refractory HTN
Unspecified stroke (___) 
Stage 1 colon adenocarcinoma s/p sigmoid hemicolectomy (___)
Hypertension
Hyperlipidemia
Aortic root dilation
Chronic diastolic congestive heart failure
Hypertensive heart disease
 
Social History:
___
Family History:
Multiple paternal aunts with heart disease. 
No family history of clotting or bleeding disorders, strokes,
seizures, brain tumors, or other cancers. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vitals: T:98.0   HR:78   BP:154/80   RR:20   SaO2:100%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: Venous stasis changes in lower legs. Generally dusky,
mildly jaundiced appearance. 
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. Calculation ability intact. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to speech. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5
* Excellent strength in confrontational testing of right hand,
however had mildly slowed repetitive and sequential finger
tapping. 

-Sensory: No deficits to light touch or pinprick throughout.
Graphestheia intact in both hands. No extinction to DSS. Romberg
absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slowed finger tap on right.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

DISCHARGE PHYSICAL EXAM
=======================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to speech. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch or pinprick throughout.
Graphestheia intact in both hands. No extinction to DSS. Romberg
absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slowed finger tap on right.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based
 
Pertinent Results:
IMAGING
========
___ TTE: 
1) No specific echocardiographic evdence of cardiac source of 
embolus. However patient has severe left atrial dilation in 
setting of grade II LV diastolic dysfunction in addition to 
significant cardiac calcification on mitral and aortic valve. 2) 
There is Lambl's excrescence on left coronary cusp.

CAROTID SERIES COMPLETEStudy Date of ___
LEFT:
The left carotid vasculature has mild atherosclerotic plaque.
The peak systolic velocity in the left common carotid artery is 
86 cm/sec.
The peak systolic velocities in the proximal, mid, and distal 
left internal
carotid artery are 50, 75, and 60 cm/sec, respectively.  The 
peak end
diastolic velocity in the left internal carotid artery is 70 
cm/sec.
The ICA/CCA ratio is 0.87.
The external carotid artery has peak systolic velocity of 117 
cm/sec.
The vertebral artery is patent with antegrade flow.
IMPRESSION:
< 40% stenosis of the right internal carotid artery.
< 40% stenosis of the left internal carotid artery.

MR HEAD W/O CONTRASTStudy Date of ___
FINDINGS: 
MR BRAIN:
There is linear gyriform cortical restricted diffusion involving 
primarily the
posterior aspect of the precentral gyrus but also likely a small 
area of the
anterior aspect of the postcentral gyrus (see series 7 images 
24, 25, 26 ___s series 6, images 24, 25, 26).  There is no definite 
corresponding
FLAIR signal abnormality in these areas.  There is no evidence 
of additional
infarction elsewhere.  A few foci of brainstem and basal 
ganglia, as well as a
right temporal lobe, focus of susceptibility likely relates to 
small foci of
chronic microhemorrhage, possibly related to hypertension given 
distribution
(series 13 images 14 and 10).  Elsewhere, there is no evidence 
of intracranial
hemorrhage, edema, mass or mass effect.  The ventricles and 
sulci are
prominent consistent with moderate global involutional changes. 
Periventricular and scattered bilateral deep and subcortical 
white matter foci
of T2/FLAIR signal hyperintensity are nonspecific but compatible 
with moderate
changes of chronic white matter microangiopathy. The visualized 
paranasal
sinuses and mastoid air cells appear clear.  The globes and 
orbits are
unremarkable.
MRA BRAIN:
The circle of ___ vasculature and principal intracranial 
branches
demonstrate normal flow related enhancement without evidence of 
significant
stenosis, occlusion, or aneurysm.
 
IMPRESSION:
1. Cortically-based gyriform restricted diffusion along the 
posterior aspect
of the left precentral gyrus, with a small similar area along 
the anterior
aspect of the postcentral gyrus, consistent with acute infarct.
2. A few small foci of left basal ganglia, right temporal lobe, 
and right
brainstem microhemorrhage likely relate to chronic hypertension. 
 Otherwise,
no intracranial hemorrhage.
3. Unremarkable MRA brain.  Patent circle of ___ vasculature.
4. Chronic findings include moderate global involutional changes 
and moderate
changes of chronic white matter microangiopathy.

ADMISSION LABS
===============
___ 02:00PM BLOOD WBC-10.0 RBC-4.95 Hgb-14.1 Hct-44.7 
MCV-90 MCH-28.5 MCHC-31.5* RDW-14.6 RDWSD-47.5* Plt ___
___ 02:00PM BLOOD Neuts-73.4* Lymphs-16.1* Monos-6.7 
Eos-2.8 Baso-0.6 Im ___ AbsNeut-7.37* AbsLymp-1.61 
AbsMono-0.67 AbsEos-0.28 AbsBaso-0.06
___ 02:00PM BLOOD Plt ___
___ 02:00PM BLOOD ___ PTT-38.1* ___
___ 02:00PM BLOOD Glucose-118* UreaN-51* Creat-3.7* Na-140 
K-5.2 Cl-105 HCO3-21* AnGap-14
___ 02:00PM BLOOD ALT-10 AST-13 AlkPhos-99 TotBili-0.3
___ 02:00PM BLOOD Lipase-28
___ 02:00PM BLOOD cTropnT-0.04*
___ 02:00PM BLOOD Albumin-3.9 Calcium-9.1 Phos-2.9 Mg-2.2 
Cholest-192
___ 02:58PM BLOOD %HbA1c-5.4 eAG-108
___ 02:00PM BLOOD Triglyc-233* HDL-37* CHOL/HD-5.2 
LDLcalc-108
___ 02:00PM BLOOD TSH-3.0
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
===============
___ 04:35AM BLOOD WBC-8.9 RBC-4.58* Hgb-13.7 Hct-41.5 
MCV-91 MCH-29.9 MCHC-33.0 RDW-14.7 RDWSD-48.3* Plt ___
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-101* UreaN-55* Creat-4.2* Na-140 
K-4.3 Cl-103 HCO3-22 AnGap-15
___ 10:50AM BLOOD cTropnT-0.06*
___ 04:35AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.1 Cholest-175
___ 04:35AM BLOOD Triglyc-241* HDL-33* CHOL/HD-5.3 
LDLcalc-94
 
Brief Hospital Course:
Mr. ___ is a ___ year old right-handed man with a history 
of hypertension, stage 4 CKD, and self reported stroke without 
residual deficits (___) who presented to OSH with right face 
and arm numbness and paresthesia, and right hand weakness. He 
was found to have acute ischemic stroke. 

#Acute ischemic stroke:
Developed right facial/arm/hand numbness, right hand weakness 
while performing yard work at home. Presented to ___ 
approximately 1 hour after symptom onset. By that time, symptoms 
were already improving. CT was unremarkable, telestroke was 
activated and tPA was not recommended. He was transferred to 
___ for stroke workup. Upon arrival to ___, his symptoms 
nearly entirely resolved, NIHSS was 0, and his neurologic exam 
was notable only for mildly slowed finger tapping on right hand. 
MR without contrast demonstrated left gyral hyperintensity in 
MCA distribution not seen on flare. Neck vessel imaging was 
deferred to avoid contrast load in setting of CKD. As such, 
carotid dopplers were performed, demonstrating <40% stenosis 
bilaterally. TTE demonstrated severe left atrial dilation. 
Etiology most likely embolic given cortical location, and 
rapidity of symptom onset and resolution. Given his left atrial 
dilation, there is a suspicion for atrial fibrillation. Stroke 
risk factors were notable for: HgA1C: 5.4, LDL 108. Initiated 
aspirin 81 mg daily. Continued home atorvastatin 80 mg daily. 
Prior to discharge, patient had some mild slowness in right 
finger-tapping. Was provided a script for outpatient 
occupational therapy. Physical therapy was not consulted as he 
was at his functional baseline on arrival to ___.

#HTN:
BP range 107-130s/60-70s. Continued home amlodipine, labetalol, 
hydralazine.

#CKD Stage IV:
Creatinine remained at baseline (3.7-4.2). Did not administer 
any contrast for imaging as above. Continued home calcitriol, 
calcium acetate. Held home kayexelate, vitamin D, resumed at 
discharge.

#Troponemia:
Troponin 0.04 uptrended to 0.05 and 0.06. Notably, his 
creatinine was also fluctuant and the rate of trend is likely 
thought to be secondary to his renal function. Patient without 
chest pain.

#Chronic diastolic heart failure:
Euvolemic with no evidence of decompensation. Continued home 
furosemide. Continued home antihypertensives as above.

TRANSITIONAL ISSUES:
======================
[] initiated aspirin 81 daily
[] continue to monitor right hand dexterity
[] discharged with order for ___ of hearts monitor x4 weeks, 
monitor results
[] continue to monitor troponin trend, thought to be elevated in 
setting of CKD, low suspicion for acute coronary syndrome
[] f/u urine culture pending at discharge

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 108 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
[ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status) PATIENT AT BASELINE FUNCTIONAL STATUS
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
[ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO QHS 
2. Calcium Acetate 667 mg PO QID W/ MEALS 
3. Calcitriol 0.25 mcg PO BID WITH FOOD (AM AND NOON) 
4. Furosemide 80 mg PO BID (AM AND NOON) 
5. Labetalol 300 mg PO Q6H (AM, NOON, DINNER, QHS) 
6. HydrALAZINE 100 mg PO Q6H (AM, NOON, DINNER, QHS) 
7. Atorvastatin 80 mg PO QPM 
8. Vitamin D 1000 UNIT PO DAILY 
9. Sodium Polystyrene Sulfonate 45 gm PO 3X WEEKLY (MWF) 
10. Ferrous Sulfate 65 mg PO HS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  amLODIPine 5 mg PO QHS  
3.  Atorvastatin 80 mg PO QPM  
4.  Calcitriol 0.25 mcg PO BID WITH FOOD (AM AND NOON)  
5.  Calcium Acetate 667 mg PO QID W/ MEALS  
6.  Ferrous Sulfate 65 mg PO HS  
7.  Furosemide 80 mg PO BID (AM AND NOON)  
8.  HydrALAZINE 100 mg PO Q6H (AM, NOON, DINNER, QHS)  
9.  Labetalol 300 mg PO Q6H (AM, NOON, DINNER, QHS)  
10.  Sodium Polystyrene Sulfonate 45 gm PO 3X WEEKLY (MWF)  
11.  Vitamin D 1000 UNIT PO DAILY  
12.Outpatient Occupational Therapy
s/p stroke with R hand weakness/clumsiness. Please evaluate and 
treat. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,

 You were hospitalized due to symptoms of numbness and weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) high cholesterol
 2) high blood pressure

 We started you on a medication called "aspirin" which will help 
keep your blood thin and prevent you from getting future 
strokes.

 Please take your other medications as prescribed.  
 Please followup with Neurology and your primary care physician.
 
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___